US06642226B2
(−)-(3,5-Bis-trifluoromethyl-phenyl)-{4-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-3-phenyl-piperidin-1-yl}-methanone
The title compound, MS: m/e=530.3 (M+H+), [α]58920=−8.02, [α]54620=−5.61, [α]43620=−20.05, [α]36520=−59.35 (c 0.1247, chloroform), was prepared in accordance with the general method of example 114 from (−)-4-[1-(3,5-bis-trifluoromethyl-benzoyl)-3-phenyl-piperidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester and 2-amino ethanol.

reactant | (−)-4-[1-(3,5-bis-trifluoromethyl-benzoyl)-3-phenyl-piperidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1C(CN(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=CC=CC=C1 | C29H33F6N3O3
reactant | 2-amino ethanol | NCCO | C2H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (−)-(3,5-Bis-trifluoromethyl-phenyl)-{4-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-3-phenyl-piperidin-1-yl}-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CC(C(CC1)N1CCN(CC1)CCO)C1=CC=CC=C1)(F)F | C26H29F6N3O2
